US04886814
(a) N-[2-(4-Methoxy-phenyl)ethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine
Prepared analogously to Example 32 by reaction of N-(2-hydroxyethyl)-2-(4-methoxyphenyl)ethanamine with 2-trifluoromethyl-4-bromoacetyl-thiazole followed by reduction with triethylsilane.

reactant | N-(2-hydroxyethyl)-2-(4-methoxyphenyl)ethanamine | OCCNCCC1=CC=C(C=C1)OC | C11H17NO2
reactant | 2-trifluoromethyl-4-bromoacetyl-thiazole | FC(C=1SC=C(N1)C(CBr)=O)(F)F | C6H3BrF3NOS
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
product | N-[2-(4-Methoxy-phenyl)ethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine | COC1=CC=C(C=C1)CCN1CC(OCC1)C=1N=C(SC1)C(F)(F)F | C17H19F3N2O2S
